US06809097B1
4-Chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride (300 mg, 1 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (141 mg, 1 mmol) in isopropanol (10 ml) was heated at reflux for 2 hours. The mixture was allowed to cool, the precipitated product collected by filtration, washed with acetone and dried to give 6-cyano-4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinoline hydrochloride (273 mg, 68%).

reactant | 4-Chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride | 1 mmol, 300 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1 mmol, 141 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 6-cyano-4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinoline hydrochloride | 273 mg, 68% | Cl.C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)NC1=C(C=C(C(=C1)O)C)F | InChI=1S/C20H18FN3O3.ClH/c1-12-7-15(21)18(9-19(12)25)24-16-3-4-23-17-10-20(27-6-5-26-2)13(11-22)8-14(16)17;/h3-4,7-10,25H,5-6H2,1-2H3,(H,23,24);1H
